US07863446B2
Synthesis of 4-{4-chloro-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidin-5-yl}-N-methylbenzenesulfonamide
To a solution of 4-{4-chloro-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidin-5-yl}benzenesulfonyl chloride (0.5 g, 0.98 mmol, prepared according to the procedure described for example 3) in dichloromethane (5 ml) was added methylamine solution (0.08 ml, 0.98 mmol, 40% aqueous solution) under stirring at 0-10° C. After 15 minutes of the stirring, TLC confirmed the completion of the reaction. Subsequently the solvent was distilled off under reduced pressure and the solid thus obtained was filtered, washed thoroughly with cold water to yield the title compound (0.446 g, yield 90.1%, purity by HPLC 98.1%). m.p: 226-230° C. 1H-NMR (400 MHz, DMSO-d6) δ: 2.09-2.10 (d, 3H), 3.1 (s, 3H), 7.43-7.44 (m, 1H, D2O exchangeable), 7.54-7.56 (d, 2H), 7.69-7.81 (m, 4H), 7.86-7.88 (d, 2H). IR (KBr) cm−1: 3335, 1562, and 1530. MS m/z: 506.1(M++1).

reactant | 4-{4-chloro-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidin-5-yl}benzenesulfonyl chloride | ClC1=NC(=NC(=C1C1=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C18H11Cl2F3N2O4S2
reactant | methylamine | 0.98 mmol, 0.08 ml | CN | CH5N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-{4-chloro-6-[4-(methylsulfonyl)phenyl]-2-(trifluoromethyl)pyrimidin-5-yl}-N-methylbenzenesulfonamide | 0.446 g, yield 90.1% | ClC1=NC(=NC(=C1C1=CC=C(C=C1)S(=O)(=O)NC)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C19H15ClF3N3O4S2
